US06518423B1
Ethyl 4-[1-[2-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ethyl]piperidin-4-yl]-2-methylbutanoate
Starting with 2-[10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl]ethyl methanesulfonate and ethyl 4-(piperidin-4-yl)-2-methylbutanoate, ethyl 4-[1-[2-10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-ethyl]piperidin-4-yl]-2-methylbutanoate was obtained by the same method as the one of Example 63. Next, this product was treated by the same method as the one of Example 8 to thereby give the title compound.

reactant | 2-[10-(methoxymethyl)-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl]ethyl methanesulfonate | CS(=O)(=O)OCCC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C15H17N3O4S2
reactant | ethyl 4-(piperidin-4-yl)-2-methylbutanoate | N1CCC(CC1)CCC(C(=O)OCC)C | C12H23NO2
reactant | 2-methylbutanoate | CC(C(=O)[O-])CC
product | Ethyl 4-[1-[2-(10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ethyl]piperidin-4-yl]-2-methylbutanoate | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CCN3CCC(CC3)CCC(C(=O)OCC)C | C24H32N4O2S
